US04888439
N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)diethanolamine
Starting materials: 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid and diethanolamine

reactant | 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C23H36O3
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)diethanolamine | CC(C(=O)N(CCO)CCO)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C27H45NO4
